US08431608B2
Synthesis of N-(5-Fluoro-pyridin-2-yl)-4-methyl-benzenesulfonamide (a):
2-amino-5-fluoropyridine (25 g, 0.22 mol) in pyridine (100 mL) was treated portion wise with p-toluenesulfonyl chloride (47.5 g, 0.25 mol) and heated at 80° C. for 2 hours. The cooled material was concentrated to remove the majority of pyridine. The resulting viscous solution was diluted with 200 ml of ethyl acetate then 200 ml of water. The resulting suspension was stirred for about an hour to break up the solids then filtered. The filter cake was washed with water then cold ethyl acetate, dried to afford 59 g of a light brown solid. Rf 0.43, 50% ethyl acetate/hexanes; MS m/z 266 (M+H).

reactant | 2-amino-5-fluoropyridine | 0.22 mol, 25 g | NC1=NC=C(C=C1)F | C5H5FN2
reactant | p-toluenesulfonyl chloride | 0.25 mol, 47.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-Fluoro-pyridin-2-yl)-4-methyl-benzenesulfonamide | 59 g | FC=1C=CC(=NC1)NS(=O)(=O)C1=CC=C(C=C1)C | C12H11FN2O2S
